### PR TITLE
feat(ModularForms/E2): q-expansion of E2

### PR DESCRIPTION
**Pull request by seewoo5**
There was only `E₂_eq` which is Lambert series expansion of $E_2$. Add more convenient one, where $G_2$ version already existed and this is a constant multiple of it.

### CODE REVIEW

File: SpherePacking/ModularForms/E2.lean [hunk 1]
```diff
@@ -884,3 +884,16 @@ lemma E₂_eq (z : UpperHalfPlane) : E₂ z =
       have ht := tsum_eq_tsum_sigma z
       simp at *
       rw [ht]
+
+lemma E₂_q_exp (z : ℍ) :
+    E₂ z = 1 - 24 * ∑' (n : ℕ+), sigma 1 n * cexp (2 * π * Complex.I * n * z) := by
+  rw [E₂]
+  simp only [Pi.smul_apply, smul_eq_mul]
+  rw [G2_q_exp, mul_sub, riemannZeta_two]
+  have hpi : (π : ℂ) ≠ 0 := by simp
```
Comment (cameronfreer) [inline SpherePacking/ModularForms/E2.lean]: I think `hpi` is unused. Also not sure if this is preferred:
```suggestion
  simp only [E₂, Pi.smul_apply, smul_eq_mul, G2_q_exp, mul_sub, riemannZeta_two]
```

**Review by cameronfreer — APPROVED** [review]
Otherwise LGTM. Do you have suggestions for specific places to try using it beyond the one mentioned in
https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/issues/284#issuecomment-3795717789 ?

**Comment by seewoo5** [comment]
Note: this is added to mathlib by @CBirkbeck, so once we bump version we may close this PR.

**Comment by CBirkbeck** [comment]
can this be closed. now?

**Comment by seewoo5** [comment]
@CBirkbeck Yes, thank you for reminding me.
